US05236918
1. 3-Cyanamino-6-(3-methoxy-4-n-propoxyphenyl)pyridazine
1.8 g 3-chloro-6-(3-methoxy-4-n-propoxyphenyl)pyridazine, 0.8 g sodium cyanamide and 3.6 g tetrabutylammonium chloride are boiled under reflux in 30 ml dry toluene for 5 hours. The reaction mixture is then evaporated in vacuo and the residue is boiled up briefly with 200 ml 2 N sodium hydrogen sulphate solution, while stirring thoroughly, the reaction product precipitating as a fine crystalline precipitate. The precipitate is filtered off with suction, washed with water and dried in vacuo. For purification, it is boiled up briefly with 50 ml isopropanol, filtered off with suction and dried in vacuo. This gives 1.5 g (83.3%) of the title compound of m.p. 187° C.

reactant | 3-chloro-6-(3-methoxy-4-n-propoxyphenyl)pyridazine | 1.8 g | ClC=1N=NC(=CC1)C1=CC(=C(C=C1)OCCC)OC | C14H15ClN2O2
reactant | sodium cyanamide | 0.8 g | N#CN.[Na]
catalyst | tetrabutylammonium chloride | 3.6 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 3-Cyanamino-6-(3-methoxy-4-n-propoxyphenyl)pyridazine | C(#N)NC=1N=NC(=CC1)C1=CC(=C(C=C1)OCCC)OC | C15H16N4O2
